US04864021
Preparation of 5'-O-acetyl-3-(4-n-propoxybenzoyl)-3'-O-(4-chlorobenzyl)-2'-deoxy-5-fluorouridine
To a solution of 0.30 g of 3'-O-(4-chlorobenzyl)-5'-O-acetyl-2'-deoxy-5-fluorouridine in 30 ml of dioxane were added 0.44 g of 4-n-propoxybenzoyl chloride and 0.61 ml of triethylamine, and the mixture was stirred at 70° C. for 3 hours. The insolubles were removed by filtration, and the residue was dissolved in ethyl acetate. The solution was washed with water and dried. The ethyl acetate was distilled off, and the residue was placed on a silica gel column and eluted with chloroform-petroleum ether (1:1), thereby producing 0.15 g of the title compound in a yield of 36%.

reactant | 3'-O-(4-chlorobenzyl)-5'-O-acetyl-2'-deoxy-5-fluorouridine | 0.30 g | ClC1=CC=C(CO[C@H]2C[C@@H](O[C@@H]2COC(C)=O)N2C(=O)NC(=O)C(=C2)F)C=C1 | C18H18ClFN2O6
reactant | 4-n-propoxybenzoyl chloride | 0.44 g | C(CC)OC1=CC=C(C(=O)Cl)C=C1 | C10H11ClO2
reactant | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 5'-O-acetyl-3-(4-n-propoxybenzoyl)-3'-O-(4-chlorobenzyl)-2'-deoxy-5-fluorouridine | 0.15 g, yield of 36% | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N(C(=O)C(=C1)F)C(C1=CC=C(C=C1)OCCC)=O)OCC1=CC=C(C=C1)Cl | C28H28ClFN2O8
